US08097617B2
Tetrahydro-pyran-4-carboxylic acid [7-aminomethyl-6-(2,4-dichloro-phenyl)-imidazo[1,2-a]pyridin-3-yl]-amide
To a solution of {6-(2,4-dichloro-phenyl)-3-[(tetrahydro-pyran-4-carbonyl)-amino]-imidazo[1,2-a]pyridin-7-ylmethyl}-carbamic acid tert-butyl ester (79.5 mg, 0.153 mmol) in dioxane (3 mL) was added a 4M HCl solution in dioxane (2 mL) and the mixture was stirred at RT for 15 min. The formed precipitate was filtered and dried under vacuum to yield the title compound (2HCl salt, 58 mg, 0.118 mmol, 48%) as a brownish solid. MS: 419 [M+1]+; HPLC: AtRet=0.83.

reactant | {6-(2,4-dichloro-phenyl)-3-[(tetrahydro-pyran-4-carbonyl)-amino]-imidazo[1,2-a]pyridin-7-ylmethyl}-carbamic acid tert-butyl ester | 0.153 mmol, 79.5 mg | C(C)(C)(C)OC(NCC1=CC=2N(C=C1C1=C(C=C(C=C1)Cl)Cl)C(=CN2)NC(=O)C2CCOCC2)=O | C25H28Cl2N4O4
reactant | HCl | 4M | Cl | ClH
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | Tetrahydro-pyran-4-carboxylic acid [7-aminomethyl-6-(2,4-dichloro-phenyl)-imidazo[1,2-a]pyridin-3-yl]-amide | 0.118 mmol, 58 mg, 48% | NCC1=CC=2N(C=C1C1=C(C=C(C=C1)Cl)Cl)C(=CN2)NC(=O)C2CCOCC2 | C20H20Cl2N4O2
